US05238938
There was stirred, for 40 minutes at room temperature, a mixture of 170 mg of 3-benzyloxy-6-chloro-2-isobutyl-5-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide, 72 mg of tetrabutylammonium bromide, 1.5 ml of dry dimethylformamide, 230 μl of benzyl alcohol and 42.5 mg of 60% sodium hydride. The reaction mixture was stirred at room temperature for 40 minutes, diluted with diethyl ether, then the mixture was washed with water several times and dried over magnesium sulfate. The solvent was removed by evaporation, and the residue was purified by a silica gel thin layer chromatography (developing solvent: 10% by volume of ethyl acetatebenzene) to obtain 136 mg of 2,5-dibenzyloxy-6-isobutyl-3-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide (Compound B-14) as a colorless oily substance.

reactant | 3-benzyloxy-6-chloro-2-isobutyl-5-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide | 170 mg | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)COC1OCCCC1)Cl)[O-])CC(C)C | C21H27ClN2O4
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | benzyl alcohol | 230 μl | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 42.5 mg | [H-].[Na+]
catalyst | tetrabutylammonium bromide | 72 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,5-dibenzyloxy-6-isobutyl-3-(2-tetrahydropyranyloxymethyl)pyrazine 1-oxide | 136 mg | C(C1=CC=CC=C1)OC1=[N+](C(=C(N=C1COC1OCCCC1)OCC1=CC=CC=C1)CC(C)C)[O-] | C28H34N2O5
